US07247645B2
2) Synthesis of 3,3-diphenylpropyl 4-(2-carboxyethoxy)-3-oxobutanoate:
625 mg (6.25 mmol) of chromic acid, 0.65 ml of concentrated sulfuric acid and 2.9 ml of water were added to 1.36 g (3.66 mmol) of 3,3-diphenylpropyl 4-(3-hydroxypropoxy)-3-oxobutanoate in 17 ml of acetone, and they were stirred at room temperature for 1.5 hours. After the addition of water and extraction with ethyl acetate, the organic layer was washed with water and then saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | chromic acid | 6.25 mmol, 625 mg | [Cr](=O)(=O)(O)O
reactant | sulfuric acid | 0.65 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 2.9 ml | O | H2O
reactant | 3,3-diphenylpropyl 4-(3-hydroxypropoxy)-3-oxobutanoate | 3.66 mmol, 1.36 g | OCCCOCC(CC(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H26O5
solvent | acetone | 17 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3-diphenylpropyl 4-(2-carboxyethoxy)-3-oxobutanoate | C(=O)(O)CCOCC(CC(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H24O6
